US05021478
Ethyl 1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl Benzalmalonate
A mixture of 15.0 g (60.4 mmol) of diethyl benzalmalonate, 32.4 g (127 mmol) of 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine, and 150 ml of toluene is heated at reflux. Water is removed by fractional distillation. The reaction mixture is cooled to 80° C. and treated with 1.0 g of titanium tetrabutoxide. The mixture is heated at reflux for 7 hours while ethanol is removed by fractional distillation. The reaction mixture is diluted with ethyl acetate (400 ml). The organic solution is washed with 1N hydrochloric acid (200 ml) and saturated sodium bicarbonate solution (200 ml), dried over magnesium sulfate, and concentrated to an oil. Purification by flash chromatography on silica gel (19:1 heptane: ethyl acetate) affords 27.6 g (54% yield) of the title compound, a colorless syrup, which is a mixture of geometric isomers.

reactant | diethyl benzalmalonate | 60.4 mmol, 15.0 g | C(C1=CC=CC=C1)=C(C(=O)OCC)C(=O)OCC | C14H16O4
reactant | 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine | 127 mmol, 32.4 g | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl Benzalmalonate | 27.6 g, 54% yield | C(C1=CC=CC=C1)=C(C(=O)OCC)C(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C27H39NO5
